US05672597
N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide
There was dissolved 15.0 g (0.0604 mol) of 3-[3-(piperidinomethyl)phenoxy]propylamine in 150 ml of dichloromethane and added dropwise 6.82 g (0.0604 mol) of chloroacetyl chloride under cooling with ice. After dropping, the mixture was stirred for 3.5 hours under cooling with ice and then the solvent was removed under reduced pressure. The residue was dissolved in 150 ml of ethanol and this solution was added to a solution which was prepared by adding 4.65 g (0.0604 mol) of 2-aminoethanethiol to a solution of 3.06 g (0.1329 mol) of sodium in 150 ml of ethanol and stirring for 30 minutes at room temperature, and the obtained mixture was refluxed with heating for 3 hours. After being allowed to cool at room temperature, the precipitate was filtrated off, and the solvent was removed under reduced pressure. The obtained residue was dissolved in ethyl acetate and washed with water, and dried over Glauber's salt. Then the solvent was removed under reduced pressure to give 20.4 g of the titled compound as oily matter.

reactant | 3-[3-(piperidinomethyl)phenoxy]propylamine | 0.0604 mol, 15.0 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | chloroacetyl chloride | 0.0604 mol, 6.82 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminoethanethiol | 0.0604 mol, 4.65 g | NCCS | C2H7NS
reactant | sodium | 0.1329 mol, 3.06 g | [Na] | Na
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | N-[3-[3-(piperidinomethyl)phenoxy]propyl]-2-(2-aminoethylthio)acetamide | 20.4 g | N1(CCCCC1)CC=1C=C(OCCCNC(CSCCN)=O)C=CC1 | C19H31N3O2S
